US05151545
(E)-5,5-Diphenyl-2,4-pentadienal
To a -78° C. solution of (Z)-1-ethoxy-2-tri-n -butylstannylethylene (17.85 g, 49.3 mmol) in anhydrous THF (250 ml) was added a solution of n-butyllithium in hexane (23.8 ml, 2.5M, 59.5 mmol) dropwise via syringe. The resulting solution was stirred at -78° C. for 1 hour, then a solution of 3-phenylcinnamaldehyde (7.0 g, 33.6 mmol) in anhydrous THF (100 ml) was added via syringe. The resulting bright purple solution was stirred at -78° C. for 4 hours, then allowed to warm to room temperature. The mixture was quenched with saturated aqueous sodium bicarbonate (200 ml), allowed to stir 10 minutes and diluted with water (300 ml). The phases were separated and the aqueous phase was extracted with ether. The combined organic phases were dried with anhydrous magnesium sulfate, filtered and concentrated in vacuo to give 7.75 g of crude product. Purification by flash chromatography (1:3 ethyl acetate:hexane) gave 4.46 g (56.7% yield) of title product having properties identical to those of the preceding Preparation.

reactant | (Z)-1-ethoxy-2-tri-n -butylstannylethylene | 49.3 mmol, 17.85 g | C(C)O\C=C/[Sn](CCCC)(CCCC)CCCC
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 59.5 mmol, 2.5M, 23.8 ml | CCCCCC | C6H14
reactant | 3-phenylcinnamaldehyde | 33.6 mmol, 7.0 g | C1(=CC=CC=C1)C=1C=C(C=CC=O)C=CC1 | C15H12O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (E)-5,5-Diphenyl-2,4-pentadienal | 4.46 g, 56.7% yield | C1(=CC=CC=C1)C(=C/C=C/C=O)C1=CC=CC=C1 | C17H14O
